US07067530B2
(E)-(S)-2-(2-Benzoyl-phenylamino)-3-[4-(3-biphenyl-4-yl-allyloxy)-phenyl]-propionic acid methyl ester
Under an atmosphere of nitrogen, azodicarboxylic dipiperidide (620 mg, 2.5 mmol) was added at 0–5° C. to a stirred solution of (S)-2-(2-benzoyloxy-phenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester (470 mg, 1.25 mmol), (E)-3-(4-biphenylyl)-2-propen-1-ol (260 mg, 1.25 mmol) and tributylphosphine (500 mg, 2.5 mmol) in dry THF (50 ml). The mixture was stirred over night. The reaction mixture was diluted with water and the product extracted with ethyl acetate. The organic layers were combined, washed with water, dried (MgSO4) and evaporated. The crude product was then purified by column chromatography on silica (eluent: 25% ethyl acetate in heptane) to give 420 mg (60%) of the title compound.

reactant | (S)-2-(2-benzoyloxy-phenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester | 1.25 mmol, 470 mg | COC([C@H](CC1=CC=C(C=C1)O)NC1=C(C=CC=C1)OC(C1=CC=CC=C1)=O)=O | C23H21NO5
reactant | (E)-3-(4-biphenylyl)-2-propen-1-ol | 1.25 mmol, 260 mg | C1(=CC=C(C=C1)/C=C/CO)C1=CC=CC=C1 | C15H14O
reactant | tributylphosphine | 2.5 mmol, 500 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (E)-(S)-2-(2-Benzoyl-phenylamino)-3-[4-(3-biphenyl-4-yl-allyloxy)-phenyl]-propionic acid methyl ester | 420 mg, 60% | COC([C@H](CC1=CC=C(C=C1)OC\C=C\C1=CC=C(C=C1)C1=CC=CC=C1)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C38H33NO4
